US08604040B2
4-[6-(Ethoxycarbonyl)pyridin-2-yl]piperidinium chloride
To a solution of ethyl 6-[1-(tert-butoxycarbonyl)piperidin-4-yl]pyridine-2-carboxylate (2.0 g) was added dropwise, at 0° C., a 4 molar solution of hydrochloric acid in 1,4-dioxane (45 ml). The reaction mixture was stirred at 0° C. and then gradually warmed to room temperature. After stirring overnight, the solvent and excess hydrogen chloride were removed. This gave 4-[6-(ethoxycarbonyl)pyridin-2-yl]piperidinium chloride (1.75 g).

reactant | ethyl 6-[1-(tert-butoxycarbonyl)piperidin-4-yl]pyridine-2-carboxylate | 2.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=CC(=N1)C(=O)OCC | C18H26N2O4
reactant | hydrochloric acid | Cl | ClH
solvent | 1,4-dioxane | 45 ml | O1CCOCC1 | C4H8O2
product | 4-[6-(Ethoxycarbonyl)pyridin-2-yl]piperidinium chloride | [Cl-].C(C)OC(=O)C1=CC=CC(=N1)C1CC[NH2+]CC1 | InChI=1S/C13H18N2O2.ClH/c1-2-17-13(16)12-5-3-4-11(15-12)10-6-8-14-9-7-10;/h3-5,10,14H,2,6-9H2,1H3;1H
